US07521457B2
d) 7-dibenzylamino-3,3-dimethyl-2,3-dihydro-isoindol-1-one
50 mg (0.284 mmol) 3,3-dimethyl-7-amino-2,3-dihydro-isoindol-1-one are dissolved in 0.5 ml DMF and combined with 141 mg (1.021 mmol) potassium carbonate and 10 mg (0.028 mmol) tetrabutylammonium iodide. The mixture is heated to 50° C. and 155 μl (1.277 mmol) benzylbromide are added dropwise thereto. After stirring for 16 h at this temperature the mixture is diluted with ethyl acetate and extracted three times with 1 M hydrochloric acid. The combined organic phases are dried and the solvent is eliminated in vacuo.

reactant | 3,3-dimethyl-7-amino-2,3-dihydro-isoindol-1-one | 0.284 mmol, 50 mg | CC1(NC(C2=C(C=CC=C12)N)=O)C | C10H12N2O
reactant | potassium carbonate | 1.021 mmol, 141 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzylbromide | 1.277 mmol, 155 μl | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 0.028 mmol, 10 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-dibenzylamino-3,3-dimethyl-2,3-dihydro-isoindol-1-one | C(C1=CC=CC=C1)N(C=1C=CC=C2C(NC(C12)=O)(C)C)CC1=CC=CC=C1 | C24H24N2O
